US05945434
N-(3-Bromopropyl)phthalimide (15.1 g) was dissolved in acetonitrile (100 ml), and 1-n-butylpiperazine (5.33 g) obtained in Preparation Example 1 and 50% potassium fluoride-Celite (21.8 g) were added at room temperature. After stirring overnight, the reaction solution was filtered off with Celite, and the solvent was distilled off under reduced pressure. The residue obtained was purified by silica gel column chromatography (methylene chloride:methanol=95:5) to give the title compound (9.83 g) as a yellow oily substance. Yield=80%.

reactant | N-(3-Bromopropyl)phthalimide | 15.1 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-n-butylpiperazine | 5.33 g, Yield=80% | C(CCC)N1CCNCC1 | C8H18N2
